US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate (0.37 g, 1.00 mmol) and 3,4-dimethylphenylisocyanate (0.15 g, 1.00 mmol) in acetonitrile (10 mL), was added triethylamine (0.28 mL, 2.00 mmol) at room temperature under nitrogen. After 1 h, 1N aq. HCl (20 mL) was added and the mixture was stirred for 10 min. The product was isolated by filtration, washed with 1N aq. HCl (20 mL), acetonitrile (20 mL) and dried overnight in vacuo to give 1-(3,4-dimethyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.30 g, 71% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 3.02 min (97.86%); mp: 254-256° C.; 1H NMR (DMSO-d6) δ 1.93-2.06 (m, 1H), 2.12 (s, 3H), 2.15 (s, 3H), 2.30-2.47 (m, 1H), 2.60 (d, J=17.2 Hz, 1H), 2.82-3.00 (m, 1H), 4.31 (d, J=17.4 Hz, 1H), 4.36-4.50 (m, 3H), 5.11 (dd, J=5.0, 13.3 Hz, 1H), 6.66 (t, J=5.9 Hz, 1H), 6.96 (d, J=8.3 Hz, 1H), 7.11 (dd, J=1.7, 8.1 Hz, 1H), 7.18 (s, 1H), 7.44 (d, J=7.9 Hz, 1H), 7.51 (s, 1H), 7.69 (d, J=7.7 Hz, 1H), 8.41 (s, 1H), 10.98 (s, 1H); 13C NMR (DMSO-d6) δ 18.60, 19.62, 22.49, 31.20, 42.77, 47.10, 51.56, 115.35, 119.15, 121.86, 122.91, 126.89, 128.67, 129.49, 130.26, 136.08, 138.03, 142.36, 144.96, 155.26, 167.95, 170.98, 172.85; Anal Calcd for C23H24N4O4: C, 65.70; H, 5.75; N, 13.33. Found: C, 65.48; H, 5.62; N, 13.20.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate | 1.00 mmol, 0.37 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 3,4-dimethylphenylisocyanate | 1.00 mmol, 0.15 g | CC=1C=C(C=CC1C)N=C=O | C9H9NO
reactant | triethylamine | 2.00 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(3,4-dimethyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.30 g, 71% yield | CC=1C=C(C=CC1C)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C23H24N4O4
